US04096263
A mixture of N-acetyl-N-(2-pyridyl)-aminoacetaldehyde diethyl acetal (6.0 g.), methyl iodide (25 g.) and ethanol (30 ml.) was heated for 15 hours at 60° C in a sealed tube. The reaction mixture was concentrated and water was added to the residual oil. The mixture was washed twice with ether and the aqueous layer was concentrated under reduced pressure to give oil of 1-methyl-2-[N-acetyl-N-(2,2-diethoxyethyl)-amino]-pyridinium iodide (9.0 g.).

reactant | N-acetyl-N-(2-pyridyl)-aminoacetaldehyde diethyl acetal | 6.0 g | C(C)OC(CN(C1=NC=CC=C1)C(C)=O)OCC | C13H20N2O3
reactant | methyl iodide | 25 g | CI | CH3I
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-methyl-2-[N-acetyl-N-(2,2-diethoxyethyl)-amino]-pyridinium iodide | 9.0 g | [I-].C[N+]1=C(C=CC=C1)N(CC(OCC)OCC)C(C)=O | InChI=1S/C14H23N2O3.HI/c1-5-18-14(19-6-2)11-16(12(3)17)13-9-7-8-10-15(13)4;/h7-10,14H,5-6,11H2,1-4H3;1H/q+1;/p-1
